US06767909B2
N-(1H-Benzimidazol-2-ylmethyl)-N-[4-(4,6-dimethylpyrimidin-2-ylsulfamoyl)-phenyl]-acetamide
18 mg (0.044 mmol) 4-[(1H-benzimidazol-2-ylmethyl)-amino]-N-(4,6-dimethylpyrimidin-2-yl)-benzenesulfonamide was dissolved in 2 ml of 15% pyridine in dichloromethane. Acetyl chloride (31 μl, 0.44 mmol) was diluted with 1 ml dichloromethane and solution was added to the reaction mixture. After three hours reaction mixture was washed with acidic water and organic layer was evaporated to dryness. Crystals were purified on silica using gradient elution (chloroform to 5% methanol in chloroform) to obtain white crystals with 30% yield. 1H NMR (DMSO-d6, 500 MHz): 7.97 (2H, m), 7.60 (2H, m), 7.48 (2H, m), 7.14 (2H, m), 6.68 (1H, s), 5.08 (2H, s), 2.18 (6H, s), 1.93 (3H, s); MS (ESI+): m/z 473 (M+Na)+, 451 (M+H)+.

reactant | 4-[(1H-benzimidazol-2-ylmethyl)-amino]-N-(4,6-dimethylpyrimidin-2-yl)-benzenesulfonamide | 0.044 mmol, 18 mg | N1C(=NC2=C1C=CC=C2)CNC2=CC=C(C=C2)S(=O)(=O)NC2=NC(=CC(=N2)C)C | C20H20N6O2S
reactant | Acetyl chloride | 0.44 mmol, 31 μl | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-(1H-Benzimidazol-2-ylmethyl)-N-[4-(4,6-dimethylpyrimidin-2-ylsulfamoyl)-phenyl]-acetamide | 30% yield | N1C(=NC2=C1C=CC=C2)CN(C(C)=O)C2=CC=C(C=C2)S(NC2=NC(=CC(=N2)C)C)(=O)=O | C22H22N6O3S
